OpenCircuit factory test: TL081 open-loop DC-servo
* OpenCircuit Model Factory v0.1.0
* Original work generated from public factual specifications.
* This model is not a copy of, or adaptation from, any vendor SPICE model.
* Source: https://www.ti.com/lit/ds/symlink/tl081.pdf
* Revision: SLOS081O, February 1977, revised September 2025
* Fit: exactly three native ngspice-46 fixed-point calibration iterations
* Node order: INP INN VCC VEE OUT
.subckt OC_TI_TL081 INP INN VCC VEE OUT
.param AOL=2.0000000000e5 GBW=7.9405277877e6 SR=2.1992886982e7 IBIAS=6.5000000000e-11 IOS=5.0000000000e-12 VOS=3.0000000000e-3
.param ROUT=1.2500000000e2 ILIM=4.0000000000e-2 VDRP_H=1.3311859276e0 VDRP_L=1.3311859120e0 CC=30p FP2=5.3559536210e6
.param CMRR=1.0000000000e5 PSRR=1.0000000000e5 VSUP_NOM=3.0000000000e1 IQ=1.4000000000e-3 EN=3.7000000000e-8
IBP 0 INP DC {IBIAS+IOS/2}
IBN 0 INN DC {IBIAS-IOS/2}
CDIF INP INN 1p
BERR e 0 V = v(INP,INN) + VOS + v(nz) + 0.5*(v(INP)+v(INN))/CMRR + (v(VCC,VEE)-VSUP_NOM)/PSRR
RE e 0 1meg
RNZ nz 0 {EN*EN/(4*1.380649e-23*300.15)}
BGM 0 p I = {SR*CC}*tanh({6.283185307*GBW/SR}*v(e))
CP p 0 {CC}
RP p 0 {AOL/(6.283185307*GBW*CC)}
RP2 p p2 {1/(6.283185307*FP2*1p)}
CP2 p2 0 1p
BCLMP q 0 V = min(max(v(p2), v(VEE)+min(VDRP_L,0.49*v(VCC,VEE))), v(VCC)-min(VDRP_H,0.49*v(VCC,VEE)))
RQ q 0 1meg
BOUT 0 OUT I = ILIM*tanh((v(q)-v(OUT))/(ROUT*ILIM))
IQVCC VCC VEE DC {IQ}
.ends OC_TI_TL081

.temp 25
VCC vcc 0 DC 15
VEE vee 0 DC -15
VIN sig 0 DC 0 AC 1
X1 sig inn vcc vee out OC_TI_TL081
LSERVO out inn 1G
CSERVO inn 0 1G
RL out 0 2k
.ac dec 40 0.01 300Meg
.end
